US06342598B1
E1) 1,4,7,10-Tetraazacyclododecane-1-acetic acid (1,1-dimethylethyl) ester
A solution of t-butyl bromoacetate (25.3 g; 130 mmol) in CHCl3 (500 mL) (commercial product) was added dropwise in 7 h to a solution of 1,4,7,10-tetraazacyclododecane (112.3 g; 650 mmol) (commercial product) in CHCl3 (2 L) maintained under nitrogen at room temperature. After 14 h the solution was concentrated to 800 mL, washed with H2O, dried and evaporated to give the desired compound (39 g; 129 mmol). Yield 99%. GC: 92% (area %). K.F.: 0.42%. The 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | t-butyl bromoacetate | 130 mmol, 25.3 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 1,4,7,10-tetraazacyclododecane | 650 mmol, 112.3 g | N1CCNCCNCCNCC1 | C8H20N4
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 2 L | C(Cl)(Cl)Cl | CHCl3
product | 1,4,7,10-Tetraazacyclododecane-1-acetic acid (1,1-dimethylethyl) ester | 129 mmol, 39 g, Yield 99% | CC(C)(C)OC(CN1CCNCCNCCNCC1)=O | C14H30N4O2
